US05703246
Stilbene oxide
Phenyl diazomethane (1 mmol in 6 ml of t-butylmethylether) was added to a stirred solution of a sulphide of formula (B) wherein R' is hydrogen (0.2 mmol), rhodium (II) acetate (4.0 mg, 0.01 mmol) and benzaldehyde (1 mmol) in dichloromethane (4 ml) at room temperature over a period of 24 hours. After the addition was complete the solvent was removed in vacuo and the residue was chromatographed over silica [eluent dichloromethane:petrol (2:3)] to give the titled compound in 58% yield and 11% ee.

reactant | Phenyl diazomethane | 1 mmol, 6 ml | C1(=CC=CC=C1)C=[N+]=[N-] | C7H6N2
reactant | hydrogen | 0.2 mmol | [H][H] | H2
reactant | benzaldehyde | 1 mmol | C(C1=CC=CC=C1)=O | C7H6O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
catalyst | rhodium (II) acetate | 0.01 mmol, 4.0 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
product | Stilbene oxide | 58% yield | C1(=CC=CC=C1)C1C(C2=CC=CC=C2)O1 | C14H12O
